US06653334B1
Synthesis of tert-Butyl 2-[2-(3-Aminopropyl)phenoxy]-2-methylpropionate
tert-Butyl 2-[2-(2-aminocarbonylethyl)phenoxy]-2-methylpropionate (2.7 g, 8.68 mmol) was dissolved in tetrahydrofuran (5 mL). Subsequently, under nitrogen atmosphere, borane-tetrahydrofuran complex in tetrahydrofuran solution [1.0M BH3-THF in THF (26.1 mL, 26.1 mmol)] was added thereto, the mixture was stirred for three hours at 50° C. Thereafter, concentrated hydrochloric acid was gradually added thereto at 0° C. The resultant mixture was stirred for one hour at room temperature and made basic with an aqueous ethylamine solution. Ethyl acetate was added thereto. The mixture was sequentially washed with water and saturated brine, followed by drying over sodium sulfate, concentration under reduced pressure, and purification by silica gel column chromatography (chloroform/methanol=30/1), whereby the target compound was obtained (1.44 g, 4.91 mmol, 57%).

reactant | tert-Butyl 2-[2-(2-aminocarbonylethyl)phenoxy]-2-methylpropionate | 8.68 mmol, 2.7 g | NC(=O)CCC1=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC=C1 | C17H25NO4
reactant | hydrochloric acid | Cl | ClH
reactant | ethylamine | C(C)N | C2H7N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 26.1 mmol, 1.0M, 26.1 mL | O1CCCC1 | C4H8O
product | tert-Butyl 2-[2-(3-Aminopropyl)phenoxy]-2-methylpropionate | NCCCC1=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC=C1 | C17H27NO3
